US07745640B2
4. Synthesis of 2-{(1E,3E)-5-[3-(3-carboxy-propyl)-3-methyl-5-sulfo-1-(3-sulfo-propyl)-1,3-dihydro-indole-(2E)-ylidene]-penta-1,3-dienyl}-1-ethyl-3-methyl-5-sulfo-3-(3-sulfo-propyl)-3H-indolium trisodium salt (OB-5)
516 mg (1 mmol) 1-ethyl-3-methyl-2-((1E,3E)-4-phenylamino-buta-1,3-dienyl)-5-sulfo-3-(3-sulfo-propyl)-3H-indolium sodium salt and 483 mg (1 mmol) 3-(3-carboxypropyl)-2,3-dimethyl-5-sulfonato-1-(3-sulfopropyl)-3H-indolium sodium salt were dissolved in a mixture of 10 ml acetic acid and 10 ml acetic anhydride followed by the addition of 5 ml pyridine. The solution was stirred under reflux for 15 min. Twenty ml ether was added after cooling to room temperature. The obtained precipitate (mixture of the diastereomers OB-5a and OB-5b) was extracted by suction, washed with ether, and dried.

reactant | 1-ethyl-3-methyl-2-((1E,3E)-4-phenylamino-buta-1,3-dienyl)-5-sulfo-3-(3-sulfo-propyl)-3H-indolium sodium salt | 1 mmol, 516 mg | [Na+].C(C)[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)O)(CCCS(=O)(=O)O)C)\C=C\C=C\NC1=CC=CC=C1
reactant | 3-(3-carboxypropyl)-2,3-dimethyl-5-sulfonato-1-(3-sulfopropyl)-3H-indolium sodium salt | 1 mmol, 483 mg | [Na].C(=O)(O)CCCC1(C(=[N+](C2=CC=C(C=C12)S(=O)(=O)[O-])CCCS(=O)(=O)O)C)C
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | ether | Twenty ml | CCOCC | C4H10O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-{(1E,3E)-5-[3-(3-carboxy-propyl)-3-methyl-5-sulfo-1-(3-sulfo-propyl)-1,3-dihydro-indole-(2E)-ylidene]-penta-1,3-dienyl}-1-ethyl-3-methyl-5-sulfo-3-(3-sulfo-propyl)-3H-indolium trisodium salt | [Na+].[Na+].[Na+].C(=O)(O)CCCC1(/C(/N(C2=CC=C(C=C12)S(=O)(=O)O)CCCS(=O)(=O)O)=C\C=C\C=C\C1=[N+](C2=CC=C(C=C2C1(CCCS(=O)(=O)O)C)S(=O)(=O)O)CC)C | InChI=1S/C35H44N2O14S4.3Na/c1-4-36-29-16-14-25(54(46,47)48)23-27(29)35(3,19-9-21-52(40,41)42)31(36)11-6-5-7-12-32-34(2,18-8-13-33(38)39)28-24-26(55(49,50)51)15-17-30(28)37(32)20-10-22-53(43,44)45;;;/h5-7,11-12,14-17,23-24H,4,8-10,13,18-22H2,1-3H3,(H4-,38,39,40,41,42,43,44,45,46,47,48,49,50,51);;;/q;3*+1/p+1
